US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-5-sulfonamide hydrochloride
N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-5-sulfonamide (530 mg, 1.04 mmol) and ammonium hydroxide (26%, 15 ml) was heated in a steal reactor to 100° C. for 3 h. The reaction mixture was cooled and concentrated under reduced pressure, the residue was dissolved in methanol, and purified by Pre-HPLC (A=10 m MNH4HCO3/H2O, B=Acetonitrile), then the white solid obtained was dissolved in EtOAc, treated with HCl (g) for 30 min. The mixture was concentrated under reduced pressure, and then the residue was suspended in ether (20 ml), treated with ultrasonic for 3 min, filtered, the solid was suspended in ether (20 ml) again, treated with ultrasonic for 3 min, filtered to afford the title compound was obtained as a white solid (142 mg, 26%). 1HNMR (MEOD-d4): δ ppm 8.05 (br s, 1H), 7.61-7.65 (ddd, J1=7.7 Hz, J2=1.6 Hz, 1H), 7.42-7.46 (m, 2H), 7.32-7.36 (t, J=8.0 Hz, 1H), 6.70-6.71 (d, J=2.0 Hz, 1H), 6.25-6.27 (d, J=6.4 Hz, 1H), 4.04 (s, 3H), 1.50 (s, 9H). MS: 488.2 [M+H]+.

reactant | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-5-sulfonamide | 1.04 mmol, 530 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC=NN1C)F | C21H20ClFN6O2S2
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-5-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC=NN1C)F | InChI=1S/C21H22FN7O2S2.ClH/c1-21(2,3)19-27-17(18(32-19)14-8-10-24-20(23)26-14)12-6-5-7-13(16(12)22)28-33(30,31)15-9-11-25-29(15)4;/h5-11,28H,1-4H3,(H2,23,24,26);1H
